US05147952
Into a flask containing 100 ml of dry ethanol were fed 2.43 g (0.106 mole) of metallic sodium, 50.77 g (0.317 mole) of diethyl malonate and 16.12 g (0.106 mole) of p-vinylbenzyl chloride in dry nitrogen gas atmosphere. The mixture was subjected to reaction at the reflux temperature for 3 hours. 100 ml of pure water was added to the reaction mixture to dissolve the sodium chloride (NaCl) generated by the reaction. Extraction was carried out with three 100 ml-portions of methylene chloride to obtain a methylene chloride solution of the product, i.e., diethyl 2-(p-vinylbenzyl)malonate.

reactant | sodium | 0.106 mole, 2.43 g | [Na] | Na
reactant | diethyl malonate | 0.317 mole, 50.77 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | p-vinylbenzyl chloride | 0.106 mole, 16.12 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | diethyl 2-(p-vinylbenzyl)malonate | yield: 70.1% | C(=C)C1=CC=C(CC(C(=O)OCC)C(=O)OCC)C=C1 | C16H20O4
